US04876359
Dissolved in 40 ml of dimethylformamide were 8.54 g of L-phenylalanine benzyl ester p-toluenesulfonate and 3.40 g of 2-bromo-γ-butyrolactone. After a dropwise addition of 4.04 g of triethylamine, the resultant mixture was heated and stirred at 70° C. for 18 hours. The reaction mixture was poured into chilled water, followed by extraction with ethyl acetate. The extract was washed successively with water, a 2% aqueous solution of sodium hydrogencarbonate, and water. After drying the extract over anhydrous sodium sulfate, it was distilled under reduced pressure. The residue was isolated and purified by chromatography on a silica gel column (toluene:ethyl acetate=20:1-5:1). From initial fractions of the column effluent, 1.75 g of N-(2-oxo-3-tetrahydrofuranyl)-L-phenylalanine benzyl ester (Isomer A) was obtained as a colorless oily substance.

reactant | L-phenylalanine benzyl ester p-toluenesulfonate | 8.54 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 2-bromo-γ-butyrolactone | 3.40 g | BrC1C(=O)OCC1 | C4H5BrO2
reactant | triethylamine | 4.04 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(2-oxo-3-tetrahydrofuranyl)-L-phenylalanine benzyl ester | 1.75 g | C(C1=CC=CC=C1)OC([C@@H](NC1C(OCC1)=O)CC1=CC=CC=C1)=O | C20H21NO4
